* PEX produced on Sun Aug 23 03:26:31 PM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.option scale=5n

.subckt strongarm_comparator OUTN OUTP CLK INN INP VSS VDD
X0 a_n2078_4046# CLK VSS VSS nfet_03v3 ad=0.168u pd=3.04m as=0.168u ps=3.04m w=1400 l=100
X1 OUTN OUTP VDD VDD pfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=100
X2 a_n1958_6864# INN a_n2078_4046# VSS nfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=200
X3 OUTP OUTN a_n1958_6864# VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X4 OUTN CLK VDD VDD pfet_03v3 ad=38.4n pd=0.88m as=38.4n ps=0.88m w=320 l=100
X5 OUTP CLK VDD VDD pfet_03v3 ad=38.4n pd=0.88m as=38.4n ps=0.88m w=320 l=100
X6 a_n1958_6864# CLK VDD VDD pfet_03v3 ad=19.2n pd=0.56m as=19.2n ps=0.56m w=160 l=100
X7 OUTN OUTP a_n3030_6864# VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X8 a_n3030_6864# CLK VDD VDD pfet_03v3 ad=19.2n pd=0.56m as=19.2n ps=0.56m w=160 l=100
X9 a_n3030_6864# INP a_n2078_4046# VSS nfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=200
X10 OUTP OUTN VDD VDD pfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=100
C0 a_n2078_4046# CLK 0.41267f
C1 CLK INN 0.01765f
C2 a_n1958_6864# OUTP 0.69816f
C3 a_n2078_4046# a_n3030_6864# 0.87768f
C4 a_n1958_6864# CLK 0.52367f
C5 a_n2078_4046# INP 0.185f
C6 a_n1958_6864# a_n3030_6864# 0.42548f
C7 a_n1958_6864# OUTN 0.53098f
C8 CLK OUTP 0.04801f
C9 a_n3030_6864# OUTP 0.09977f
C10 a_n1958_6864# VDD 1.54421f
C11 OUTN OUTP 1.78553f
C12 a_n3030_6864# CLK 0.34291f
C13 CLK OUTN 0.08896f
C14 a_n2078_4046# INN 0.15234f
C15 a_n3030_6864# OUTN 0.60206f
C16 VDD OUTP 4.6754f
C17 a_n3030_6864# INP 0.10468f
C18 a_n2078_4046# a_n1958_6864# 0.66571f
C19 a_n1958_6864# INN 0.10257f
C20 VDD CLK 3.40894f
C21 a_n3030_6864# VDD 1.75107f
C22 VDD OUTN 5.538f
C23 INP VSS 0.64266f
C24 INN VSS 0.65308f
C25 OUTP VSS 2.94511f
C26 OUTN VSS 2.6538f
C27 CLK VSS 3.83473f
C28 VDD VSS 31.7415f
C29 a_n2078_4046# VSS 5.51028f ; **FLOATING
C30 a_n1958_6864# VSS 3.12967f ; **FLOATING
C31 a_n3030_6864# VSS 2.74908f ; **FLOATING
.ends
